US07514578B2
Preparation of methyl (S)-2-(tert-butoxycarbonylamino)-3-diphenylaminopropionate
1.3 g of methyl (S)-2-(benzoyl-tert-butoxycarbonylamino)-3-diphenylaminopropionate were dissolved in 13 ml of methanol and admixed with 2.74 ml of a 1M solution of magnesium methoxide in methanol. The solution was stirred at RT overnight and concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed with water. The ethyl acetate phase was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was crystallized from a little diisopropyl ether/heptane. Yield: 0.95 g (90% of theory) 1H NMR: 1.38 (s, 9H), 3.55 (s, 3H), 4.10-4.25 (m, 2H), 4.50-4.62 (m, 1H), 5.10-5.25 (m, 1H), 6.90-7.05 (m, 6H), 7.20-7.30 (m, 4H)

reactant | methyl (S)-2-(benzoyl-tert-butoxycarbonylamino)-3-diphenylaminopropionate | 1.3 g | C(C1=CC=CC=C1)(=O)N([C@H](C(=O)OC)CN(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C28H30N2O5
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
solvent | methanol | 13 ml | CO | CH4O
product | methyl (S)-2-(tert-butoxycarbonylamino)-3-diphenylaminopropionate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CN(C1=CC=CC=C1)C1=CC=CC=C1 | C21H26N2O4
